US06878714B2
A mixture of N-(1-acetyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)-acetamide (0.50 g), HCl (conc., 3 mL) and EtOH (12 mL) was heated to 70° C. for overnight. Additional 3 mL of conc. HCl was added to the reaction and the heating was continued for 3 more days. Solvent was evaporated to give a white residue as crude C-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine HCl salt, which was used without further purification.

reactant | N-(1-acetyl-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)-acetamide | 0.50 g | C(C)(=O)N1CCC=2C1=NC=CC2CNC(C)=O | C12H15N3O2
reactant | HCl | 3 mL | Cl | ClH
reactant | HCl | 3 mL | Cl | ClH
solvent | EtOH | 12 mL | CCO | C2H6O
product | C-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine HCl salt | Cl.N1CCC=2C1=NC=CC2CN | InChI=1S/C8H11N3.ClH/c9-5-6-1-3-10-8-7(6)2-4-11-8;/h1,3H,2,4-5,9H2,(H,10,11);1H
